US04461895
8.0 g. (25.37 mmol) (+)-7-Hydroxy-1-(3-hydroxy-4-methoxybenzyl)-6-methoxy-1,2,3,4-tetrahydroisoquinoline (J. Org. Chem., 45, 592/1980) in 150 ml. ethanol are mixed with 5.10 g. (60.7 mmol) sodium bicarbonate and 2.19 ml. (3.07 g.) allyl bromide in a manner analogous to that described in Example 1. The N-allylation product (8.0 g., 22.5 mmol, yellowish foam) obtained after appropriate working up is reacted at -10° C. in a mixture of 70 ml. trifluoroacetic acid and 70 ml. methylene chloride with 3.2 ml. (5.89 g., 33.98 mmol) vanadium oxytrichloride in 35 ml. anhydrous methylene chloride in a manner analogous to that described in Example 1. The crude product obtained (8 g., crystallisation from chloroform/diethyl ether; m.p. 159°-165° C.) is O-methylated in a manner analogous to that described in Example 1 with 115 ml. of a 1N solution of phenyltrimethylammonium hydroxide in methanol in 400 ml. of a mixture of toluene and dimethylformamide (9:1 v/v). The crude product obtained after appropriate working up is, after chromatographic purification on silica gel with chloroform as elution agent, converted with ethanolic hydrochloric acid into the crystalline hydrochloride. There is obtained (-)-6-allyl-5,6,6a,7-tetrahydro-1,2,9,10-tetramethoxy-4H-dibenzo(de,g)quinoline hydrochloride; m.p. 210°-217° C.

reactant | (+)-7-Hydroxy-1-(3-hydroxy-4-methoxybenzyl)-6-methoxy-1,2,3,4-tetrahydroisoquinoline | 25.37 mmol | OC1=C(C=C2CCNC(C2=C1)CC1=CC(=C(C=C1)OC)O)OC | C18H21NO4
reactant | sodium bicarbonate | 60.7 mmol | C([O-])(O)=O.[Na+]
reactant | allyl bromide | 3.07 g | C(C=C)Br | C3H5Br
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | vanadium oxytrichloride | 33.98 mmol, 5.89 g | O=[V].Cl.Cl.Cl
solvent | ethanol | C(C)O | C2H6O
product | (-)-6-allyl-5,6,6a,7-tetrahydro-1,2,9,10-tetramethoxy-4H-dibenzo(de,g)quinoline hydrochloride | Cl.C(C=C)N1CCC=2C3=C(C4=C(CC13)C=C(C(=C4)OC)OC)C(=C(C2)OC)OC | InChI=1S/C23H27NO4.ClH/c1-6-8-24-9-7-14-11-20(27-4)23(28-5)22-16-13-19(26-3)18(25-2)12-15(16)10-17(24)21(14)22;/h6,11-13,17H,1,7-10H2,2-5H3;1H
